US07479558B2
4-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzoic acid
To the compound 4-chloro-2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one (168.75 mg, 0.40 mmol) in dioxane (12 mL) and water (4 mL) were added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid (148.85 mg, 0.60 mol), potassium carbonate (208 mg, 1.20 mmol) and tetrakis(triphenylphosphine)palladium(0) (23 mg, 0.02 mmol). The mixture was heated with microwave at 150° C. for 15 min. The mixture was concentrated. It was mixed with DMSO (0.75 mL) and water (0.25 mL). Separation by HPLC afforded the title compound (147 mg, 72%). LC-MS m/z 508 (M+H)+.

reactant | 4-chloro-2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 0.40 mmol, 168.75 mg | ClC=1C2=C(N=C(N1)NCCCN(CC)CC)N(C(C=C2)=O)C2=C(C=CC=C2F)F | C20H22ClF2N5O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoic acid | 0.60 mol, 148.85 mg | CC1(OB(OC1(C)C)C1=CC=C(C(=O)O)C=C1)C | C13H17BO4
reactant | potassium carbonate | 1.20 mmol, 208 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-[2-{[3-(diethylamino)propyl]amino}-8-(2,6-difluorophenyl)-7-oxo-7,8-dihydropyrido[2,3-d]pyrimidin-4-yl]benzoic acid | 147 mg, 72% | C(C)N(CCCNC=1N=C(C2=C(N1)N(C(C=C2)=O)C2=C(C=CC=C2F)F)C2=CC=C(C(=O)O)C=C2)CC | C27H27F2N5O3
